US09029381B2
trans-(4-tert-Butylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone
This example was prepared according to Example 1 employing trans-2-phenyl-1-cyclopropanecarbonyl chloride and 1-tert-butylpiperazine, which is commercially available from, for example, Beta Pharma. m/z (ES+) M+1=287.2; HPLC tR=1.60 min. 1H NMR (500 MHz, CDCl3) δ 7.34-7.23 (m, 2H), 7.23-7.15 (m, 1H), 7.11 (d, J=7.0 Hz, 2H), 3.73-3.53 (m, 4H), 2.64-2.50 (m, 4H), 2.47 (ddd, J=8.9, 6.4, 4.3 Hz, 1H), 1.96 (td, J=4.5, 3.5 Hz, 1H), 1.65 (ddd, J=9.2, 5.2, 4.3 Hz, 1H), 1.25 (ddd, J=8.2, 6.4, 4.3 Hz, 1H), 1.06 (s, 9H).

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 1-tert-butylpiperazine | C(C)(C)(C)N1CCNCC1 | C8H18N2
product | trans-(4-tert-Butylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone | C(C)(C)(C)N1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C18H26N2O
